US06936608B2
a) 2-(4-Fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
A mixture of 4-bromo-1-fluoro-2-methoxybenzene (U.S. Pat. No. 4,593,037) (5.00 g, 24.39 mmol), dried potassium acetate (4.79 g, 48.77 mmol) and bis(pinacolato)diboron (7.12 g, 28.05 mmol) in 1,4-dioxane (53.9 ml) was degassed by evacuation and refilling with nitrogen three times. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.59 g, 0.73 mmol) was added and the mixture was stirred at 90° C. under nitrogen for 17 h. After allowing to cool, the mixture was filtered through glass fibre paper, and the solid was washed with a little ethyl acetate. The combined filtrates were evaporated in vacuo and the residue was partitioned between 2 M aqueous NaOH (80 ml) and diethyl ether (80 ml). The aqueous layer was acidified to pH 7 with concentrated hydrochloric acid causing a solid to precipitate. After leaving in a fridge overnight, the solid was collected by filtration, washed with water and dried under a vacuum to leave 5.9 g (96%) of the title compound: 1H NMR (360 MHz, DMSO-d6) δ 1.30 (12H, s), 3.85 (3H, s), 7.18-7.33 (3H, m).

reactant | 4-bromo-1-fluoro-2-methoxybenzene | BrC1=CC(=C(C=C1)F)OC | C7H6BrFO
reactant | potassium acetate | 48.77 mmol, 4.79 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 28.05 mmol, 7.12 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 53.9 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.73 mmol, 0.59 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(4-Fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 5.9 g, 96% | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C13H18BFO3
